US04093729
N-Methyl-N'-hydroxy-N"-[4-(4-imidazolyl)butyl]guanidine dihydrochloride
When N-methyl-N'-[4-(4-imidazolyl)butyl]thiourea is reacted with methanolic hydrogen chloride by the procedure of Example 1(i) the product is N,S-dimethyl-N'-[4-(4-imidazolyl)butyl]isothiourea which on treatment with hydroxylamine by the procedure of Example 1(ii) gives the title product.

reactant | N-methyl-N'-[4-(4-imidazolyl)butyl]thiourea | CNC(=S)NCCCCC=1N=CNC1 | C9H16N4S
reactant | hydrogen chloride | Cl | ClH
reactant | N,S-dimethyl-N'-[4-(4-imidazolyl)butyl]isothiourea | CNC(SC)=NCCCCC=1N=CNC1 | C10H18N4S
reactant | hydroxylamine | NO | H3NO
product | N-Methyl-N'-hydroxy-N"-[4-(4-imidazolyl)butyl]guanidine dihydrochloride | Cl.Cl.CNC(=NCCCCC=1N=CNC1)NO | InChI=1S/C9H17N5O.2ClH/c1-10-9(14-15)12-5-3-2-4-8-6-11-7-13-8;;/h6-7,15H,2-5H2,1H3,(H,11,13)(H2,10,12,14);2*1H
